US04338333
1-[4-(3-Carbomethoxypropoxy) phenyl]propan-2-one
To a solution of 1-[4-(3-carbomethoxyprop-2-eneoxy)phenyl]propan-2-one (1.1 g) in ethanol (50 ml), was added 10% Pd/C (100 mg) and the mixture hydrogenated at ambient temperature and atmospheric pressure until hydrogen uptake was complete (approx. 10 minutes). The solution was filtered, evaporated to give the title compound (1.1 g) as an oil.

reactant | 1-[4-(3-carbomethoxyprop-2-eneoxy)phenyl]propan-2-one | 1.1 g | C(=O)(OC)C=CCOC1=CC=C(C=C1)CC(C)=O | C14H16O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-[4-(3-Carbomethoxypropoxy) phenyl]propan-2-one | 1.1 g | C(=O)(OC)CCCOC1=CC=C(C=C1)CC(C)=O | C14H18O4
